US08372864B2
300 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved in 10 cm3 of ethyl ether at a temperature close to 20° C. 0.4 cm3 of a 4N solution of hydrochloric acid in dioxane is added while stirring at a temperature of 20° C. The reaction mixture precipitates. The solid is washed with three lots of 5 cm3 of isopropyl ether and dried under vacuum at a temperature of 50° C. 280 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white powder.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 300 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)NS(=O)(=O)C)=O)C(CCC)CCC)C=C(C1)F | C38H45F5N4O5S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 10 cm3 | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 280 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)NS(=O)(=O)C)=O)C(CCC)CCC)C=C(C1)F | InChI=1S/C38H45F5N4O5S.ClH/c1-4-7-29(8-5-2)47-14-11-30-31(20-28(46-53(3,51)52)21-32(30)36(47)50)35(49)45-33(17-23-15-26(39)19-27(40)16-23)34(48)22-44-37(12-13-37)24-9-6-10-25(18-24)38(41,42)43;/h6,9-10,15-16,18-21,29,33-34,44,46,48H,4-5,7-8,11-14,17,22H2,1-3H3,(H,45,49);1H/t33-,34+;/m0./s1
